US04405787
Using the method of Example 1, 4.45 g (0.0232 m) of 3-carbomethoxy-2-azabicyclo[2.2.1]heptane hydrochloride and 3-carbethoxypropanoyl chloride were reacted using triethylamine and acetone to give 4.59 g of syrupy 2-(3-carbethoxypropanoyl)-3-carbomethoxy-2-azabicyclo[2.2.1]heptane.

reactant | 3-carbomethoxy-2-azabicyclo[2.2.1]heptane hydrochloride | 4.45 g | Cl.C(=O)(OC)C1NC2CCC1C2
reactant | 3-carbethoxypropanoyl chloride | C(=O)(OCC)CCC(=O)Cl | C6H9ClO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 2-(3-carbethoxypropanoyl)-3-carbomethoxy-2-azabicyclo[2.2.1]heptane | 4.59 g | C(=O)(OCC)CCC(=O)N1C2CCC(C1C(=O)OC)C2 | C14H21NO5
